US05011825
(d) Fmoc-Arg-Ile-OH
15.8 g of Fmoc-Arg-Ile-OtBu are dissolved in 150 ml of 90% strength aqueous trifluoroacetic acid. The solution is left to stand at room temperature for 1 hour, and is concentrated. The residue is triturated twice with diethyl ether, the ether being decanted off each time. Water is added to the residue, and the pH is adjusted to with saturated NaHCO3 solution. The precipitate is filtered off with suction and dried.

reactant | Fmoc-Arg-Ile-OtBu | 15.8 g | N([C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)OC(C)(C)C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C31H43N5O5
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | Fmoc-Arg-Ile-OH | N([C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C27H35N5O5
